US05074911
(c) 3-Hydroxy-2-iodo-1-(4-dodecylbenzyl)pyridinium bromide
A mixture of 3-hydroxy-2-iodopyridine (22.1 g, 0.1M) and 4-dodecylbenzyl bromide (37.2 g, 0.101M) was stirred in sulpholane (100 ml) at 90° C. for 8 hours. Acetone was added and the precipitated product filtered and washed with acetone to yield a white solid (45 g). The product was recrystallised from a mixture of methanol and water, collected and dried at 60° C. (35 g).

reactant | 3-hydroxy-2-iodopyridine | 0.1M, 22.1 g | OC=1C(=NC=CC1)I | C5H4INO
reactant | 4-dodecylbenzyl bromide | 0.101M, 37.2 g | C(CCCCCCCCCCC)C1=CC=C(CBr)C=C1 | C19H31Br
reactant | Acetone | CC(=O)C | C3H6O
solvent | sulpholane | 100 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3-Hydroxy-2-iodo-1-(4-dodecylbenzyl)pyridinium bromide | 45 g | [Br-].OC=1C(=[N+](C=CC1)CC1=CC=C(C=C1)CCCCCCCCCCCC)I | InChI=1S/C24H34INO.BrH/c1-2-3-4-5-6-7-8-9-10-11-13-21-15-17-22(18-16-21)20-26-19-12-14-23(27)24(26)25;/h12,14-19H,2-11,13,20H2,1H3;1H
